US07579469B2
To a solution of the 4-hydroxyquinoline and 2-[2-(5-fluoro-2-methoxyphenyl)-2-methylpropyl]-2-difluoromethyloxirane in DMSO (1.0 mL) stirred under nitrogen was added NaHMDS (1.2 mL, 1.0M in THF) dropwise. The mixture was stirred at room temperature for 15 days. The mixture was diluted with ethyl acetate, washed with water, dried, filtered, and evaporated in vacuo. Trituration of the residue with diethyl ether gave the product 1-[2-difluoromethyl-4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methylpentyl]-1H-quinolin-4-one as a crystalline solid that was collected by filtration and air dried (77.7 mg, 20%).

reactant | 4-hydroxyquinoline | OC1=CC=NC2=CC=CC=C12 | C9H7NO
reactant | 2-[2-(5-fluoro-2-methoxyphenyl)-2-methylpropyl]-2-difluoromethyloxirane | FC=1C=CC(=C(C1)C(CC1(OC1)C(F)F)(C)C)OC | C14H17F3O2
reactant | NaHMDS | 1.0M, 1.2 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | DMSO | 1.0 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[2-difluoromethyl-4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methylpentyl]-1H-quinolin-4-one | FC(C(CN1C=CC(C2=CC=CC=C12)=O)(CC(C)(C)C1=C(C=CC(=C1)F)OC)O)F | C23H24F3NO3
